US07271262B2
257A. 4-Chloro-7-cyclopropylmethyl-7H-pyrrolo[2,3-d]pyrimidine
(Bromomethyl)cyclopropane (7.6 mL, 78 mmol) was added to a solution of 4-Chloro-7H-pyrrolo[2,3-d]pyrimidine (10.0 g, 65 mmol) and cesium carbonate (25.4 g, 78 mmol) in DMF (100 mL). The reaction mixture was stirred at room temperature 12 h, filtered, and concentrated in vacuo. Purification by flash column chromatography (silica, 1:9→2:8 EtOAc:hexanes) provided the title compound as a white solid (12.9 g, 95%). MS: 208.5 (MH+); HPLC Rf: 5.21 min. (HPLC method 4); HPLC purity: 100%.

reactant | (Bromomethyl)cyclopropane | 78 mmol, 7.6 mL | BrCC1CC1 | C4H7Br
reactant | 4-Chloro-7H-pyrrolo[2,3-d]pyrimidine | 65 mmol, 10.0 g | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | cesium carbonate | 78 mmol, 25.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 4-Chloro-7-cyclopropylmethyl-7H-pyrrolo[2,3-d]pyrimidine | 12.9 g, 95% | ClC=1C2=C(N=CN1)N(C=C2)CC2CC2 | C10H10ClN3
